US08957069B2
2-(2,3-dimethylphenoxy)-2-methylpropanoic acid
Sodium hydroxide (82.0 g, 2.05 mol) was added to a solution of methyl ethyl ketone (400 mL) containing 2,3-dimethylphenol (50.0 g, 410 mmol), and the mixture was stirred at 50° C. for 1 hour. After that, a solution of methyl ethyl ketone (200 mL) containing 2-bromo-2-methylpropionic acid (103 g, 615 mmol) was added thereto, and the mixture was stirred at 50° C. for 4 hours. After cooled to room temperature, the reaction solution was distributed by adding water and diethyl ether. 6N hydrochloric acid was added to the aqueous layer to be acidic, and then extraction was performed using ethyl acetate. The extract was washed with saturated saline, and then dried using anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane-ethyl acetate 95:5 to 50/50) to give 38.3 g of the title compound (yield: 45%).

reactant | Sodium hydroxide | 2.05 mol, 82.0 g | [OH-].[Na+]
reactant | 2,3-dimethylphenol | 410 mmol, 50.0 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | 2-bromo-2-methylpropionic acid | 615 mmol, 103 g | BrC(C(=O)O)(C)C | C4H7BrO2
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
solvent | methyl ethyl ketone | 200 mL | C(C)C(=O)C | C4H8O
solvent | methyl ethyl ketone | 400 mL | C(C)C(=O)C | C4H8O
product | 2-(2,3-dimethylphenoxy)-2-methylpropanoic acid | 38.3 g, yield: 45% | CC1=C(OC(C(=O)O)(C)C)C=CC=C1C | C12H16O3
